US07855227B2
Step B 2-[[2-[3-(2-Fluoro-benzyloxy)-phenyl]-ethyl]-(furan-2-ylmethyl)amino]-N-methylacetamide hydrochloride
A solution of 60 mg (0.21 mmol) of 2-[[2-(3-hydroxy-phenyl)-ethyl]-(furan-2-ylmethyl)amino]-N-methyl-acetamide, 36 mg (0.25 mmol) of 1-chloromethyl-2-fluoro-benzene, 44 mg of K2CO3 (0.32 mmol) and 3 mg of potassium iodide in 4 ml of dimethylformamide was refluxed overnight. The solvent was removed under vacuum and the crude product was purified by preparative HPLC. The isolated product was dissolved in ethyl acetate/hydrochloric acid. The solvent was removed under vacuum and the residue was triturated with diethyl ether. 65 mg (72% yield) of the title compound were isolated as a white solid.

reactant | 2-[[2-(3-hydroxy-phenyl)-ethyl]-(furan-2-ylmethyl)amino]-N-methyl-acetamide | 0.21 mmol, 60 mg | OC=1C=C(C=CC1)CCN(CC(=O)NC)CC=1OC=CC1 | C16H20N2O3
reactant | 1-chloromethyl-2-fluoro-benzene | 0.25 mmol, 36 mg | ClCC1=C(C=CC=C1)F | C7H6ClF
reactant | K2CO3 | 0.32 mmol, 44 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 3 mg | [I-].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-[[2-[3-(2-Fluoro-benzyloxy)-phenyl]-ethyl]-(furan-2-ylmethyl)amino]-N-methylacetamide hydrochloride | 65 mg, 72% yield | Cl.FC1=C(COC=2C=C(C=CC2)CCN(CC(=O)NC)CC=2OC=CC2)C=CC=C1 | InChI=1S/C23H25FN2O3.ClH/c1-25-23(27)16-26(15-21-9-5-13-28-21)12-11-18-6-4-8-20(14-18)29-17-19-7-2-3-10-22(19)24;/h2-10,13-14H,11-12,15-17H2,1H3,(H,25,27);1H
